US06140100
A 100 mL 3-necked flask equipped with a magnetic stirrer and a nitrogen inlet was charged with 1.79 g of methyl 4-hydroxy-3-cyclopentylbenzoate, 1.22 g of imidazole (Aldrich), 30 mL of anhydrous DMF, and 1.47 g of tert-butyldimethylsilyl chloride (Aldrich). The solution was stirred at RT under nitrogen for 24 h and then concentrated in vacuo to give a thick oil. This material was subjected to flash chromatography on silica gel (95:5 hexane:EtOAc) to afford 2.43 g (89%) of methyl 4-((tert-butyldimethylsilyl)oxy)-3-cyclopentylbenzoate as a clear liquid.

reactant | methyl 4-hydroxy-3-cyclopentylbenzoate | 1.79 g | OC1=C(C=C(C(=O)OC)C=C1)C1CCCC1 | C13H16O3
reactant | imidazole | 1.22 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 1.47 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | methyl 4-((tert-butyldimethylsilyl)oxy)-3-cyclopentylbenzoate | 2.43 g, 89% | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C(=O)OC)C=C1)C1CCCC1 | C19H30O3Si
